US07759379B2
N-[5-(4,4-Dimethyl-2,5-dioxo-3-pyridin-4-ylmethyl-imidazolidin-1-yl)-2-trifluoromethoxy-phenyl]-acrylamide
1000 mg (2.54 mmol) 3-(3-amino-4-trifluormethoxy-phenyl)-5,5-dimethyl-1-pyridin-4-ylmethyl-imidazolidine-2,4-dione were dissolved in 25 ml 1,2-dichloroethane. The mixture was cooled to −20° C. and treated with a solution of 272 mg (3.00 mmol) acrylic acid chloride in 5 ml 1,2-dichloroethane. The mixture was allowed to reach RT, and then evapoarted to dryness. The raw material was used without further purification.

reactant | 3-(3-amino-4-trifluormethoxy-phenyl)-5,5-dimethyl-1-pyridin-4-ylmethyl-imidazolidine-2,4-dione | 2.54 mmol, 1000 mg | NC=1C=C(C=CC1OC(F)(F)F)N1C(N(C(C1=O)(C)C)CC1=CC=NC=C1)=O | C18H17F3N4O3
reactant | acrylic acid chloride | 3.00 mmol, 272 mg | C(C=C)(=O)Cl | C3H3ClO
solvent | 1,2-dichloroethane | 25 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | N-[5-(4,4-Dimethyl-2,5-dioxo-3-pyridin-4-ylmethyl-imidazolidin-1-yl)-2-trifluoromethoxy-phenyl]-acrylamide | CC1(N(C(N(C1=O)C=1C=CC(=C(C1)NC(C=C)=O)OC(F)(F)F)=O)CC1=CC=NC=C1)C | C21H19F3N4O4
